US06156907
4-Cyano-1-(4-cyanobenzyl)-1H-1,2,3-triazole
A mixture of 4-cyanobenzyl azide (0.8 g) and 2-chloroacrylonitrile (0.88 g) in water (5 ml) is stirred at about 80° C. for 20 hours. Excess 2-chloroacrylonitrile is distilled off in vacuo, the mixture is cooled to room temperature and the precipitated product is isolated by filtration and washed with water. The product (yield 0.92 g; 88% of theory) of m.p. 93.5-94° C. (recrystallization from ethyl acetate/toluene) is obtained after drying.

reactant | 4-cyanobenzyl azide | 0.8 g | C(#N)C1=CC=C(CN=[N+]=[N-])C=C1 | C8H6N4
reactant | 2-chloroacrylonitrile | 0.88 g | ClC(C#N)=C | C3H2ClN
solvent | water | 5 ml | O | H2O
product | 4-Cyano-1-(4-cyanobenzyl)-1H-1,2,3-triazole | C(#N)C=1N=NN(C1)CC1=CC=C(C=C1)C#N | C11H7N5
